US09227956B2
Step 1: tert-butyl (3R)-3-[(3-chloropyridin-2-yl){[5-(6-methyl-3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)pyridin-2-yl]carbonyl}amino]piperidine-1-carboxylate
Prepared according to General Procedure A and C starting from Preparation 1 tert-butyl (3R)-3-[(3-chloropyridin-2-yl)amino]piperidine-1-carboxylate (3.22 g, 10.3 mmol) and Preparation 8 5-(6-methyl-3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)pyridine-2-carboxylic acid (2.51 g, 9.83 mmol) to provide 2.33 g (43%) of the product as a solid.

reactant | tert-butyl (3R)-3-[(3-chloropyridin-2-yl)amino]piperidine-1-carboxylate | 10.3 mmol, 3.22 g | ClC=1C(=NC=CC1)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C15H22ClN3O2
reactant | 5-(6-methyl-3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)pyridine-2-carboxylic acid | 9.83 mmol, 2.51 g | CC=1C=C2C(=NC1)N(N=N2)C=2C=CC(=NC2)C(=O)O | C12H9N5O2
product | tert-butyl (3R)-3-[(3-chloropyridin-2-yl){[5-(6-methyl-3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)pyridin-2-yl]carbonyl}amino]piperidine-1-carboxylate | 2.33 g, 43% | ClC=1C(=NC=CC1)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C1=NC=C(C=C1)N1N=NC=2C1=NC=C(C2)C | C27H29ClN8O3
